US07241760B2
4-(3-Chloro-phenylethynyl)-1-furan-3-yl-2-methyl-1H-imidazole
4-(3-Chloro-phenylethynyl)-2-methyl-1H-imidazole (200 mg, 0.92 mmol) was dissolved in 10 mL dichloromethane. Powdered molecular sieves (3 A, 200 mg), 3-furaneboronic acid (207 mg, 1.85 mmol) and [Cu(OH)TMEDA]2Cl2 (43 mg, 0.093 mmol) were added. Oxygen was bubbled through the reaction mixture for 10 minutes and stirring was continued at room temperature overnight. The reaction mixture was filtered through a dicalite speed plus pad and washed with 50 mL dichloromethane. The filtrate was washed with 50 mL water, dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (dichloromethane/methanol 100:0->90:10 gradient) and the desired compound was as a brown oil (21 mg, 8%), MS: m/e=283.1 (M+H+).

reactant | 4-(3-Chloro-phenylethynyl)-2-methyl-1H-imidazole | 0.92 mmol, 200 mg | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 3-furaneboronic acid | 1.85 mmol, 207 mg | O1C=C(C=C1)B(O)O | C4H5BO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3-Chloro-phenylethynyl)-1-furan-3-yl-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=COC=C1)C | C16H11ClN2O
